US07875645B2
rac-2-[1-(3-Bromo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(3-bromo-phenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): light yellow solid; MS (ISP): 252.9; 254.9 ((M+H)+.).

reactant | rac-2-(3-bromo-phenyl)-propionitrile | BrC=1C=C(C=CC1)C(C#N)C | C9H8BrN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(3-Bromo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | BrC=1C=C(C=CC1)C(C)C=1NCCN1 | C11H13BrN2
